US04859683
To a mixture of 2.2 g sodium hydride (60%) and 20 ml THF is added dropwise at 0° C. a solution of 15 g of methyl 3-(2'-methyl-2'-tosyloxypentyl)-4-acetylaminosalicylate in 10 ml THF. This is allowed to come to room temperature over several hours, then chilled and 2 ml H2O added slowly. This is then diluted with ethyl acetate, the salts filtered off, washed with water and brine, dried and concentrated to dryness to obtain methyl 2,2-dimethyl-6-acetylamino-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate which is used directly in the next step.

reactant | sodium hydride | 2.2 g | [H-].[Na+]
reactant | methyl 3-(2'-methyl-2'-tosyloxypentyl)-4-acetylaminosalicylate | 15 g | CC(CC1=C(C(C(=O)OC)=CC=C1NC(C)=O)O)(CCC)OS(=O)(=O)C1=CC=C(C)C=C1 | C23H29NO7S
reactant | H2O | 2 ml | O | H2O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2,2-dimethyl-6-acetylamino-2,3,4,5-tetrahydro-1-benzoxepin-9-carboxylate | CC1(OC2=C(CCC1)C(=CC=C2C(=O)OC)NC(C)=O)C | C16H21NO4
